US05232925
2-[N-(2-Benzoxazolyl)amino]ethanol
A solution of 2-chlorobenzoxazole (12.78 g) in dry tetrahydrofuran (50 ml) was added, over 10 minutes, to a stirred, ice-cooled solution of ethanolamine (15.3 g) in dry tetrahydrofuran (400 ml). The mixture was heated at reflux overnight, cooled, and the solvent evaporated. The residue was partitioned between water (500 ml) and dichloromethane (500 ml), and the resulting white solid filtered off, washed with dichloromethane and dried in vacuo to afford the title compound m.p. 162°-4° C.

reactant | 2-chlorobenzoxazole | 12.78 g | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | ethanolamine | 15.3 g | C(O)CN | C2H7NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 2-[N-(2-Benzoxazolyl)amino]ethanol | O1C(=NC2=C1C=CC=C2)NCCO | C9H10N2O2
